US08211910B2
7-(7-Amino-7-methyl-5-azaspiro[2.4]heptan-5-yl)-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid Hydrochloride
7-[7-amino-7-methyl-5-azaspiro[2.4]heptan-5-yl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid in which configuration of the amino group in the substituent at position 7 is the same as the one produced in Example 9 (18.07 g, 39.4 mmol) was suspended in methanol (54 mL), and 1N hydrochloric acid (43.4 mL, 43.4 mmol) was added to the suspension at room temperature. Isopropyl alcohol (180 mL) was then added, and the mixture was stirred in a water bath at 50° C. for some time until precipitated gummy material thoroughly turned to crystal. After allowing to stand at room temperature for 1 hour, the crystals were collected by filtration, and washed with a small amount of isopropyl alcohol (twice). The crystals were then dried under reduced pressure to obtain the title compound 12.91 g (27.2 mmol, 69%) as a yellow powder.

reactant | 7-[7-amino-7-methyl-5-azaspiro[2.4]heptan-5-yl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1(CN(CC12CC2)C2=C(C=C1C(C(=CN(C1=C2OC)[C@H]2[C@H](C2)F)C(=O)O)=O)F)C | C21H23F2N3O4
reactant | hydrochloric acid | 43.4 mmol, 1N, 43.4 mL | Cl | ClH
reactant | Isopropyl alcohol | 180 mL | C(C)(C)O | C3H8O
solvent | methanol | 54 mL | CO | CH4O
product | 7-(7-Amino-7-methyl-5-azaspiro[2.4]heptan-5-yl)-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid Hydrochloride | 27.2 mmol, 12.91 g, 69% | Cl.NC1(CN(CC12CC2)C2=C(C=C1C(C(=CN(C1=C2OC)[C@H]2[C@H](C2)F)C(=O)O)=O)F)C | InChI=1S/C21H23F2N3O4.ClH/c1-20(24)8-25(9-21(20)3-4-21)16-13(23)5-10-15(18(16)30-2)26(14-6-12(14)22)7-11(17(10)27)19(28)29;/h5,7,12,14H,3-4,6,8-9,24H2,1-2H3,(H,28,29);1H/t12-,14+,20?;/m0./s1
